US08492582B2
Trifluoroacetic acid (5 mL) was added to the obtained tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrazol-1-yl)benzoate (68 mg), followed by stirring at room temperature for 4 hours. The solvent was evaporated under reduced pressure, and methanol was added to the obtained residue. The solid substance was collected by filtration to obtain 53 mg of 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrazol-1-yl)benzoic acid.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrazol-1-yl)benzoate | 68 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)N1N=CC=C1 | C26H24N4O3
product | 2-(5-phenylpyridine-3-carboxamido)-4-(1H-pyrazol-1-yl)benzoic acid | 53 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)O)C=CC(=C1)N1N=CC=C1 | C22H16N4O3
